2177-07-12 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-7-11**] 05:35 PM
 PICC LINE - START [**2177-7-11**] 06:06 PM
   .
   ABG from 2AM:
                                    7.46
                                    pCO2
                                     49
                                     pO2
                                     106
                                    HCO3
                                     36
                                   BaseXS
                                      9
   suggested metabolic alkalosis - thought to be due to contraction
   alkalosis. gave NS for fluid.
   .
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2177-7-11**] 06:05 PM
   Vancomycin - [**2177-7-11**] 09:00 PM
   Meropenem - [**2177-7-11**] 09:00 PM
   Azithromycin - [**2177-7-11**] 10:07 PM
   Metronidazole - [**2177-7-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2177-7-11**] 10:13 PM
   Lorazepam (Ativan) - [**2177-7-12**] 01:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-7-12**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100.1
   HR: 95 (89 - 103) bpm
   BP: 111/53(66) {101/40(57) - 140/71(88)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,189 mL
                                                                    947 mL
   PO:
             TF:
   IVF:
                                                                  1,189 mL
                                                                    947 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    400 mL
   Urine:
                                                                    850 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,339 mL
                                                                    547 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.46/49/106/29/9
   Ve: 11.1 L/min
   PaO2 / FiO2: 212
   98% on AC 500x 12 with FiO2 50% and PEEP 5 with ABG above.
   Physical Examination
   General:  Alert, appears anxious, unable to vocalize
   HEENT:  Sclera anicteric, dry mucous membranes, scant white plaqueing
   roof of mouth
   Neck: Supple, JVP difficult to assess given habitus although no obvious
   distention, no appreciable LAD
   Lungs: Palpable ronchi, ronchi b/l, Limited secondary to anterior exam
   and body habitus
   CV: Soft heart sounds, regular rate and rhythm, normal S1/S2, I/VI
   early systolic murmur best heard at LLSB
   Abdomen:  Obese, umbilical hernia (reducible), active bowel sounds, PEG
   tube in place with nondraining slightly red surrounding tissue, mild
   RUQ TTP, [**Doctor Last Name 1850**] sign negative
   GU: Foley
   Ext:  Warm, well perfused, 2+ pulses; upper extremity edema, 1+
   Skin:  Mild erythema surrounding PEG insertion site; erythematous patch
   on both thighs, medially, near groin (per report)
   Neuro:  PERRL; EOMI; upper extremity movement limited to moving
   fingers; no lower extremity movement
   Labs / Radiology
   489 K/uL
   8.0 g/dL
   173 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   11 mg/dL
   97 mEq/L
   136 mEq/L
   23.4 %
   15.8 K/uL
        [image002.jpg]
   CBC 18.3 at admission, Hct 27.1 at admission
                             [**2177-7-12**]  02:07 AM
                             [**2177-7-12**]  04:52 AM
   WBC
   15.8
   Hct
   23.4
   Plt
   489
   Cr
   0.3
   TCO2
   36
   Glucose
   173
   Other labs: Lactic Acid:1.2 mmol/L
   .
   CXR [**7-12**]: none
   .
   [**7-11**] BCx
 pending
   [**7-11**] Ucx
 pending
[**7-11**] Sputum
 4+ PMNS, 4+ GNR
[**7-11**] Urine legionella
 negative
[**7-11**] MRSA
 pending
   [**7-12**] C diff - pending
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 ANXIETY
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 .H/O RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, OTHER
   .
   68F ventilator-dependent secondary to [**Last Name (un) 9456**]-[**Location (un) **], insulin-dependent
   diabetes mellitus, recurrent urinary tract infections with chronic
   indwelling Foley catheter, recent C difficile infection on vancomycin
   PO admitted from [**Hospital 328**] Rehab for fever x1 week, diarrhea, and lethargy
   x1 days.
   .
   #. Pneumonia:  Consolidation in LLL, in addition to bilateral fluffy
   infiltrates. Has been covered with Vancomycin, Zosyn initially which
   are appropriate for VAP and more recently Vancomycin, Imipenem with
   worsening fevers and leukocytosis. Of note, Staph aureus fevers can
   cause recurrent fevers even when appropriately treated, although would
   not expect worsening leukocytosis, and would expect focal
   consolidation. Given bilateral ground glass opacities, concern for
   atypical bacterial or viral infection as well. Legionella possible
   given multilobar infiltrates, recent GI symptoms, lethargy. No prior
   sputum cultures in our system.
   - Monitor sputum cultures - narrow antibiotics as soon as source known
   particularly given history of C. difficile infection
   - Monitor blood cultures
   - Vancomycin, meropenem, azithromycin for atypicals (IV given need to
   first confirm PEG tube placement)
   - Chest CT for further characterization
   - Follow blood cultures drawn at [**Hospital 328**] Rehab
   - Viral swab
 collected today by respiratory therapy; some difficulty
   with collection and may not be adequate sample.
   .
   #. Abdominal pain:  Mild RUQ tenderness. LFTs normal. Pt with history
   of C. diff colitis. No evidence of colitis or other intrabdominal
   pathology to explain abdominal pain. Given nontender abdominal exam and
   concurrent infection, concern for mesenteric ischemia given likely
   vascular disease and potential episodes of low blood pressure. Lactate
   1.8 is reassuring.
   - continue IV flagyl pending results.
   - Hold on vancomycin PO given that first need to confirm PEG tube
   placement
   - Consider RUQ ultrasound
   .
   #. Chronic respiratory failure:  Secondary to [**Last Name (un) 9456**]-[**Location (un) **]. Pt doing
   well on increased FiO2 50% compared to home settings on FiO2 35%.
   -wean vent to home settings
   .
   #. Patchy infiltrate on CXR:  Infection vs. fluid. No evidence of overt
   heart failure. Treatment of pulmonary infection as above.
   .
   #. Abnormal UA:  Recurrent urinary tract infections per report.
   Abnormal UA expected given chronic indwelling Foley catheter. Small
   leukocyte esterase, negative nitrite. UTI unlikely, although she is
   covered regardless with above listed antibiotics. In the ED, received
   linezolid for VRE coverage.
   - Follow urine culture
   .
   #. History of C difficile colitis:  Unclear if patient with active
   infection at this time. On vancomycin PO at time of transfer from
   facility.
   - C difficile toxin, as above
   - Flagyl IV, as above
   .
   #. Lethargy:  Multiple potential sources, as listed above. Infection
   high on list given fever, leukocytosis so will cover with
   broad-spectrum antibiotics at this time. Also with rash at groin,
   although does not appear like cellulitis. ?concern for contribution
   from [**Last Name (un) 9456**] [**Location (un) **]. Had recent exacerbation which required IVIG.
   Anemic, although at baseline - and would not expect patient to be
   symptomatic at this hematocrit.
   - Infectious workup and treatment, as above
   - Closely monitor hematocrit
   .
   #. Anemia:  MCV 96. Baseline unknown (no records in our system). No
   evidence of active bleeding at this time. Reportedly guaiaic negative,
   per rehab transfer note. Given low albumin, may be secondary to poor
   nutrition status. On folic acid at home.
   - Type and screen
   - Guaiac stools
   - F/u B12, folate
   .
   #. Diabetes mellitus, type II:  Tight blood glucose control
   particularly important in setting of infection.
   - Lantus, SSI per home regimen - half dose as cannot give tubefeeds
   until PEG tube placement confirmed
   .
   #. Heart failure:  Does not appear to be in overt heart failure at this
   time. Most recent TTE at [**Hospital1 403**] ([**6-5**]) was without indication of systolic
   dysfunction.
   .
   #. Anxiety:  Hold Klonipin given need to confirm PEG tube placement.
   Ativan IV as needed, low-dose.
   ICU Care
   Nutrition: PEG tube may not be in place per most recent CT scan -final
   read pending; Will hold off on Fibersource HN Full strength 60cc/hour
   until placement verified. Will need to consult IR in AM for better
   assessment of PEG placement
   Glycemic Control:
   Lines:
   PICC Line - [**2177-7-11**] 06:06 PM
   20 Gauge - [**2177-7-11**] 06:11 PM
   Prophylaxis:
   DVT: :  Subcutaneous heparin, pneumoboots
   Stress ulcer:
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 1100**] [**Name (NI) 9458**] (nephew), ([**Telephone/Fax (1) 9459**]
   Patient ask that we stay in touch with CJ, her brother, before
   discussing with nephew
   [**Name (NI) 36**] status: FULL Code
   Disposition:ICU for now

2177-07-12 09:32:00 Physician Attending Progress Note
Chief Complaint: f/u fever, lethargy, diarrhea
   HPI:
   68 F w/ a h/o chronic respiratory failure [**12-30**] GBS/CIDP  who presents
   with fever, lethargy, diarrhea.  Inc secretions from trach.   At rehab,
   vanc/zosyn/PO vanc, changed to vanc/imipenem/PO vanc, in the ED also
   linezolid and levaquin.  H/o VAP in [**Month (only) **] unknown organism.   Documented
   as LLL infiltrate.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-7-11**] 05:35 PM
 PICC LINE - START [**2177-7-11**] 06:06 PM
   Overnight admitted to the ICU.   Started on vanc/meropenem/azithro for
   multifocal PNA.
   ABG 7.46/49/106
   Inc'd to 50% FiO2
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2177-7-11**] 06:05 PM
   Vancomycin - [**2177-7-11**] 09:00 PM
   Meropenem - [**2177-7-11**] 09:00 PM
   Azithromycin - [**2177-7-11**] 10:07 PM
   Metronidazole - [**2177-7-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2177-7-11**] 10:13 PM
   Lorazepam (Ativan) - [**2177-7-12**] 01:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-7-12**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.2
   HR: 89 (89 - 103) bpm
   BP: 97/44(57) {97/40(57) - 140/71(88)} mmHg
   RR: 22 (18 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,191 mL
                                                                  1,091 mL
   PO:
             TF:
   IVF:
                                                                  1,191 mL
                                                                  1,091 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    400 mL
   Urine:
                                                                    850 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,341 mL
                                                                    691 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.46/49/106/29/9
   Ve: 11.1 L/min
   PaO2 / FiO2: 212
   Physical Examination
   HEENT: PERRL.  Intubated.  Neck supple. Trach site c/d/i.
   Heart: Regular S1,S2. No m/r/g
   Lungs: b/l anterior rhonchi, R palpable.
   Abd: Soft. NT. ND.  GTube in place.
   Ext: Flaccid paralysis of all ext.
   Skin: Erythema of b/l medial thighs with some crusting.
   Labs / Radiology
   8.0 g/dL
   489 K/uL
   173 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   11 mg/dL
   97 mEq/L
   136 mEq/L
   23.4 %
   15.8 K/uL
        [image002.jpg]
   CXR: Multifocal GG opacities
   Sputum: 4+GNR
                             [**2177-7-12**]  02:07 AM
                             [**2177-7-12**]  04:52 AM
   WBC
   15.8
   Hct
   23.4
   Plt
   489
   Cr
   0.3
   TCO2
   36
   Glucose
   173
   Other labs: Lactic Acid:1.2 mmol/L
   Assessment and Plan
   68 y/o female w/ a history of GBS/CIDP and chronic respiratory failure
   since [**Month (only) 807**], a/w multifocal pna.
   Multifocal PNA
 GNRs sputum.   Given improvement in WBCC and sputum,
   GNRs seem the likely source and limited utility to lower resp tract
   sampling at this time.  Cont vanc/meropenem. Cipro added for empiric
   pseudomonas coverage.   Urinary legionella is neg.   Follow up
   sputum/blood cultures.
   Chronic Respiratory Failure
 Follow NIFs, decrease FiO2 as
   tolerated.   VBG/ABG
   RUQ tenderness
 CT abdomen w/o etiology.  ? if related to C.diff.
   LFTs, amylase/lipase nl.   C.diff toxin pending.    Continued on IV
   flagyl.   No evid of ischemic bowel.
   Metabolic alkalosis
 Now volume replete await follow up.  Follow up on
   ABG.
   UA- 11-20 WBCs w/ epis, non-diagnostic,   follow up culture
   Rash of medial b/l thighs
 likely fungal in nature.
   Anemia
 Guiac neg.  No evidence of active blood loss.  Cont to
   follow.
   DM2- ISS.
   Anxiety- IV ativan.
   ICU Care
   Nutrition: confirm GT location.  Hold TFs for now.
   Glycemic Control:  DM as above
   Lines:  Midline, present from rehab.
   PICC Line - [**2177-7-11**] 06:06 PM
   20 Gauge - [**2177-7-11**] 06:11 PM
   Prophylaxis:
   DVT:  hep sc, pneumoboots
   Stress ulcer:  H2
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status:  Full code
   Disposition : ICU
   Total time spent: 35 min; patient is critically ill

2177-07-13 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient requesting that we contact her brother but no record of his
   phone number, asking that we do not contact her nephew
   - ABG and [**Name (NI) 9481**] correlate with each other, no need for further ABGs- can
   get [**Name (NI) 9481**] instead
   - G-tube placement confirmed and restarted on home po meds as well as
   po vanc and cipro
   - 7pm: increased FiO2 from .35 to 0.4 with 500 x 12 PEEP: 5 for pO2 86
   with subjective SOB
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2177-7-11**] 06:05 PM
   Azithromycin - [**2177-7-11**] 10:07 PM
   Vancomycin - [**2177-7-12**] 08:00 AM
   Ciprofloxacin - [**2177-7-12**] 01:42 PM
   Metronidazole - [**2177-7-12**] 02:11 PM
   Meropenem - [**2177-7-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-7-12**] 01:42 PM
   Morphine Sulfate - [**2177-7-13**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-7-13**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-7-13**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 90 (83 - 97) bpm
   BP: 102/47(59) {97/43(57) - 128/66(79)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 145 kg (admission): 122.5 kg
             Total In:
                                                                  3,548 mL
                                                                    893 mL
   PO:
             TF:
             184 mL
   IVF:
                                                                  3,498 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    390 mL
   Urine:
                                                                    900 mL
                                                                    290 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                  2,648 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.47/44/86//7
   Ve: 11.3 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General:  Alert, appears anxious, unable to vocalize
   HEENT:  Sclera anicteric, dry mucous membranes
   Neck: Supple, JVP difficult to assess given habitus although no obvious
   distention, no appreciable LAD
   Lungs: Palpable ronchi, audible ronchi b/l, Limited secondary to
   anterior exam and body habitus and sounds from mechanical ventilator
   CV: Soft heart sounds, regular rate and rhythm, normal S1/S2, I/VI
   early systolic murmur best heard at LLSB
   Abdomen:  Obese, umbilical hernia (reducible), active bowel sounds, PEG
   tube in place with nondraining slightly red surrounding tissue, mild
   RUQ TTP, [**Doctor Last Name 1850**] sign negative
   GU: Foley
   Ext:  Warm, well perfused, 2+ pulses; upper extremity edema, 1+
   Skin:  Mild erythema surrounding PEG insertion site; erythematous patch
   on both thighs, medially, near groin (per report)
   Neuro:  PERRL; EOMI; upper extremity movement limited to moving
   fingers; no lower extremity movement
   Labs / Radiology
   520 K/uL
   8.1 g/dL
   173 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   11 mg/dL
   97 mEq/L
   136 mEq/L
   25.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2177-7-12**]  02:07 AM
                             [**2177-7-12**]  04:52 AM
                             [**2177-7-12**]  03:03 PM
                             [**2177-7-13**]  03:40 AM
   WBC
   15.8
   10.2
   Hct
   23.4
   25.3
   Plt
   489
   520
   Cr
   0.3
   TCO2
   36
   33
   Glucose
   173
   Other labs: Lactic Acid:1.2 mmol/L
   .
   [**7-11**] BCx
 pending
   [**7-11**] Ucx
 yeast
[**7-11**] Sputum
 4+ PMNS, 4+ GNR (moderate growth)
[**7-11**] Urine legionella
 negative
[**7-11**] MRSA
 pending
   [**7-12**] C diff
 negative
   [**7-12**]
 viral swab pending
   Assessment and Plan
   68F ventilator-dependent secondary to [**Last Name (un) 9456**]-[**Location (un) **] vs CIPD,
   insulin-dependent diabetes mellitus, recurrent urinary tract infections
   with chronic indwelling Foley catheter, recent C difficile infection on
   vancomycin PO admitted from [**Hospital 328**] Rehab for fever x1 week, diarrhea,
   and lethargy x1 days.
   .
   #. Pneumonia:  Consolidation in LLL, in addition to bilateral fluffy
   infiltrates. Has been covered with Vancomycin, Zosyn initially which
   are appropriate for VAP and more recently Vancomycin, Imipenem with
   worsening fevers and leukocytosis. Of note, Staph aureus fevers can
   cause recurrent fevers even when appropriately treated, although would
   not expect worsening leukocytosis, and would expect focal
   consolidation. Given bilateral ground glass opacities, concern for
   atypical bacterial or viral infection as well. Legionella possible
   given multilobar infiltrates, recent GI symptoms, lethargy. No prior
   sputum cultures in our system.
   -Possible bronch/mini BAL pending culture results
   - Monitor sputum cultures - narrow antibiotics as soon as source known
   particularly given history of C. difficile infection
   - Monitor blood cultures
   - Continue Vancomycin, meropenem,
   -Add cipro for double pseudomonas coverage
   - Follow blood cultures drawn at [**Hospital 328**] Rehab
   - Viral swab
 collected today by respiratory therapy; some difficulty
   with collection and may not be adequate sample.
   .
   # Fever
 Most likely due to persistent pneumonia as above. Also
   consider midline infection.
   -f/u BCx
 may have to replace midline pending culture results.
   .
   #. Chronic respiratory failure:  Secondary to [**Last Name (un) 9456**]-[**Location (un) **]. Pt doing
   well on increased FiO2 50% compared to home settings on FiO2 35%.
   -wean vent to home settings
   -follow O2 sats
   -Do ABG with [**Location (un) 9481**]. If results correlate well, can evaluate respiration
   with VBGs.
   -NIFs
   .
   #. Abdominal pain:  Mild RUQ tenderness. LFTs normal. Pt with history
   of C. diff colitis. No evidence of colitis or other intrabdominal
   pathology to explain abdominal pain. Given nontender abdominal exam and
   concurrent infection, concern for mesenteric ischemia given likely
   vascular disease and potential episodes of low blood pressure. Lactate
   1.8 is reassuring.
   - continue IV flagyl pending results.
   - Hold on vancomycin PO given that first need to confirm PEG tube
   placement
   - Consider RUQ ultrasound
   .
   #. Abnormal UA:  Recurrent urinary tract infections per report.
   Abnormal UA expected given chronic indwelling Foley catheter. Small
   leukocyte esterase, negative nitrite. UTI unlikely, although she is
   covered regardless with above listed antibiotics. In the ED, received
   linezolid for VRE coverage.
   - Follow urine culture
   .
   #. Anemia:  MCV 96. Baseline unknown (no records in our system). No
   evidence of active bleeding at this time. Reportedly guaiaic negative,
   per rehab transfer note. Given low albumin, may be secondary to poor
   nutrition status. On folic acid at home.
   - Type and screen
   - Guaiac stools
   - F/u B12, folate
   .
   #. Lethargy:  Multiple potential sources, as listed above. Infection
   high on list given fever, leukocytosis so will cover with
   broad-spectrum antibiotics at this time. Also with rash at groin,
   although does not appear like cellulitis. ?concern for contribution
   from [**Last Name (un) 9456**] [**Location (un) **]. Had recent exacerbation which required IVIG.
   Anemic, although at baseline - and would not expect patient to be
   symptomatic at this hematocrit.
   - Infectious workup and treatment, as above
   - Closely monitor hematocrit
   -Touch base with pt
s neurologist re: status of her GBS and if this is
   actually CIPD given time course of disease.
   .
   #. Diabetes mellitus, type II:  Tight blood glucose control
   particularly important in setting of infection.
   - Lantus, SSI per home regimen - half dose as cannot give tubefeeds
   until PEG tube placement confirmed
   .
   #. Heart failure:  Does not appear to be in overt heart failure at this
   time. Most recent TTE at [**Hospital1 403**] ([**6-5**]) was without indication of systolic
   dysfunction.
   .
   #. Anxiety:  Hold Klonipin given need to confirm PEG tube placement.
   Ativan IV as needed, low-dose
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2177-7-13**] 01:30 AM 40 mL/hour
   Glycemic Control:  ISS
   Lines:
   Midline Line - [**2177-7-11**] 06:06 PM
   20 Gauge - [**2177-7-11**] 06:11 PM
   Prophylaxis:
   DVT: :  Subcutaneous heparin, pneumoboots
   Stress ulcer: Famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 1100**] [**Name (NI) 9458**] (nephew), ([**Telephone/Fax (1) 9459**]
   Patient ask that we stay in touch with CJ, her brother, before
   discussing with nephew
   [**Name (NI) 36**] status: FULL Code
   Disposition:ICU for now

2177-07-13 10:10:00 Physician Attending Progress Note
Chief Complaint: f/u multifocal PNA
   HPI:
   68F w/ h/o CIDP and chronic resp failure, multifocal PNA.
   24 Hour Events:
   Increased FiO2 last night
   Developed hypotension, SBPs 80s this Am, accompanied by lethargy and
   decreased Uo.
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2177-7-11**] 06:05 PM
   Azithromycin - [**2177-7-11**] 10:07 PM
   Vancomycin - [**2177-7-12**] 08:00 AM
   Ciprofloxacin - [**2177-7-12**] 01:42 PM
   Metronidazole - [**2177-7-12**] 02:11 PM
   Meropenem - [**2177-7-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-7-12**] 01:42 PM
   Morphine Sulfate - [**2177-7-13**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-7-13**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-7-13**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 86 (83 - 97) bpm
   BP: 83/41(51) {83/41(51) - 128/66(79)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 145 kg (admission): 122.5 kg
             Total In:
                                                                  3,548 mL
                                                                  3,009 mL
   PO:
             TF:
             277 mL
   IVF:
                                                                  3,498 mL
                                                                  2,397 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    465 mL
   Urine:
                                                                    900 mL
                                                                    365 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                  2,648 mL
                                                                  2,544 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.47/44/86/31/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 215
   Physical Examination
   HEENT: PERRL.  Intubated.  Neck supple. Trach site c/d/i.
   Heart: Regular S1,S2. No m/r/g
   Lungs: b/l anterior rhonchi, R palpable.
   Abd: Soft. NT. ND.  GTube in place.
   Ext: Flaccid paralysis of all ext.
   Skin: Erythema of b/l medial thighs with some crusting.  Warm well
   perfused.
   Neuro: Alert, responsive, but lethargic.
   Labs / Radiology
   8.1 g/dL
   520 K/uL
   148 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.7 mEq/L
   10 mg/dL
   97 mEq/L
   136 mEq/L
   25.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2177-7-12**]  02:07 AM
                             [**2177-7-12**]  04:52 AM
                             [**2177-7-12**]  03:03 PM
                             [**2177-7-13**]  03:40 AM
   WBC
   15.8
   10.2
   Hct
   23.4
   25.3
   Plt
   489
   520
   Cr
   0.3
   0.3
   TCO2
   36
   33
   Glucose
   173
   148
   Other labs: PT / PTT / INR:14.4/26.5/1.2, Alk Phos / T Bili:124/,
   Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68 y/o female w/ a history of GBS/CIDP and chronic respiratory failure
   since [**Month (only) 807**], a/w multifocal pna.
   Hypotension
 concerning for sepsis in the setting of elev WBCC and
   multifocal opacities.   Increasingly somnolent.  Now received 2L NS w/o
   improvement.   Check lactate.   Would benefit from central access and
   CVP monitoring but currently refusing.
   Multifocal PNA
 GNRs sputum.   Given improvement in WBCC and sputum,
   GNRs seem the likely source and limited utility to lower resp tract
   sampling at this time.  Cont vanc/meropenem. Changed to levofloxacin
   for better atypical coverage, as well as empiric pseudomonas
   coverage.   Urinary legionella is neg.   If  sputum does not provide
   likely etiology, will need lower airway sampling.
   Chronic Respiratory Failure
NIF yesterday 30.  Worsening patchy
   opacities and increasing FiO2 concerning for developing ARDS. P/F is
   215 c/w [**Doctor Last Name 11**].  Will move to low tidal volume strategy.
   RUQ tenderness
 CT abdomen w/o etiology.  ? if related to C.diff.
   LFTs, amylase/lipase nl.   C.diff toxin pending.    Continued on IV
   flagyl.   No evid of ischemic bowel.  RUQ u/s.
   Metabolic alkalosis
 ? if still volume depleted.  Follow up on ABG.
   UA- 11-20 WBCs w/ epis, non-diagnostic.  Cx w/ yeast.  Change foley,
   f/u UA.
   Rash of medial b/l thighs
 likely fungal in nature.
   Anemia
 Guiac neg.  No evidence of active blood loss.  B12/folate nl.
   Cont to follow.
   DM2- ISS.
   Anxiety- IV ativan.
 DIABETES MELLITUS (DM), TYPE I
 ANXIETY
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 .H/O RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2177-7-13**] 01:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-7-11**] 06:06 PM
   18 Gauge - [**2177-7-13**] 06:35 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:  H2
   VAP: Bundle
   Comments:
   Communication:  Comments: Nephew
   [**Name (NI) 36**] status:  Full
   Disposition : ICU
   Total time spent: 45

2177-07-14 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2177-7-13**] 12:50 PM
 BLOOD CULTURED - At [**2177-7-13**] 02:57 PM
   .
   - pt refused central line
   - restarted vanc, started levaquin
   .
   - on AC, PaO2/FiO2 was 285, 250, concerning for ARDS (<200) --> set on
   low tidal volume of 500, RR 16 --> ABG 7.31/57/100
   - RR increased to 20 to decrease PaCO2 and Vt decreased to 400 --> ABG
   7.32/51/84/25
   .
   - transfused 1 unit pRBC for hct 22.7 --> hct 26.3
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2177-7-11**] 06:05 PM
   Azithromycin - [**2177-7-11**] 10:07 PM
   Ciprofloxacin - [**2177-7-12**] 01:42 PM- d/c
   Metronidazole - [**2177-7-12**] 02:11 PM
   Vancomycin - [**2177-7-13**] 08:30 PM
   Meropenem - [**2177-7-14**] 05:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2177-7-13**] 12:59 PM
   Morphine Sulfate - [**2177-7-13**] 12:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-7-14**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100.1
   HR: 96 (73 - 102) bpm
   BP: 136/66(91) {87/43(58) - 144/75(97)} mmHg
   RR: 25 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 149.7 kg (admission): 122.5 kg
   Height: 67 Inch
           Total In:
                                                                  8,419 mL
                                                                  1,177 mL
   PO:
           TF:
                                                                    487 mL
                                                                    295 mL
   IVF:
                                                                  7,240 mL
                                                                    674 mL
   Blood products:
                                                                    192 mL
                                                                    158 mL
   Total out:
                                                                  1,162 mL
                                                                    348 mL
   Urine:
                                                                    762 mL
                                                                    248 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  7,257 mL
                                                                    829 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 19 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.32/51/84/25 (respiratory acidosis)
   Ve: 10.9 L/min
   PaO2 / FiO2: 210
   98% on AC 400x 20 with FiO2 40% and PEEP 5 with ABG above
   Physical Examination
   General:  Alert, appears anxious, unable to vocalize
   Lungs: Palpable rhonchi, audible rhonchi b/l, Limited secondary to
   anterior exam and body habitus and sounds from mechanical ventilator
   CV: Soft heart sounds, regular rate and rhythm, normal S1/S2, I/VI
   early systolic murmur best heard at LLSB
   Abdomen:  Obese, umbilical hernia (reducible), active bowel sounds, PEG
   tube in place, denies pain with palpation
   Ext:  Warm, well perfused, 2+ pulses; upper extremity edema, 1+
   Labs / Radiology
   474 K/uL
   8.6 g/dL
   136 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.5 mEq/L
   8 mg/dL
   107 mEq/L
   139 mEq/L
   26.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2177-7-12**]  02:07 AM
                             [**2177-7-12**]  04:52 AM
                             [**2177-7-12**]  03:03 PM
                             [**2177-7-13**]  03:40 AM
                             [**2177-7-13**]  02:38 PM
                             [**2177-7-13**]  04:47 PM
                             [**2177-7-13**]  05:07 PM
                             [**2177-7-13**]  06:10 PM
                             [**2177-7-13**]  10:25 PM
                             [**2177-7-14**]  03:29 AM
   WBC
   15.8
   10.2
   6.6
   7.5
   Hct
   23.4
   25.3
   22.7
   26.3
   Plt
   489
   520
   406
   474
   Cr
   0.3
   0.3
   0.3
   0.3
   TCO2
   36
   33
   29
   30
   30
   27
   Glucose
   173
   148
   138
   136
   Other labs: Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   .
   RUQ ultrasound - no acute cholecystitis, no evidence of cholelithiasis
   or choledocholithiasis.
   .
   [**7-11**] and [**7-13**] BCx
 pending
   [**7-11**] Ucx
 yeast
   [**7-13**] UCx - pending
[**7-11**] Urine legionella
 negative
[**7-11**] MRSA
 negative
   [**7-12**] C diff
 negative
   [**7-14**] C diff - pending
   [**7-12**]
 viral screen negative; culture pending
   .
   Sputum [**2177-7-11**]
RESPIRATORY CULTURE (Final [**2177-7-14**]):
      OROPHARYNGEAL FLORA ABSENT.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.  SECOND MORPHOLOGY.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.  THIRD MORPHOLOGY.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          PSEUDOMONAS AERUGINOSA
                             |          |          PSEUDOMONAS AERUGINOSA
                             |          |          |
CEFEPIME--------------     8 S        8 S        8 S
CEFTAZIDIME-----------     4 S        4 S        4 S
CIPROFLOXACIN---------     1 S      =>4 R      =>4 R
GENTAMICIN------------     8 I        4 S        4 S
MEROPENEM-------------<=0.25 S   <=0.25 S   <=0.25 S
PIPERACILLIN----------     8 S      <=4 S      <=4 S
PIPERACILLIN/TAZO-----     8 S      <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S      <=1 S
   .
   CXR [**2177-7-14**]:
   Clearly defined ring shadows in the consolidation in the left mid lung
   and
   developed since [**7-11**], indicating necrotizing pneumonia. Extensive
   pneumonia in the right lung is more pronounced than it was on the
   [**7-11**],
   but stable since [**7-13**]. Heart is partially obscured by adjacent
   parenchymal abnormality, appears top normal in size. Some component of
   pulmonary edema cannot be excluded but need not be invoked to explain
   all the
   pulmonary abnormality. Dr. [**Last Name (STitle) 9310**] was paged.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE I
 ANXIETY
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 .H/O RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, OTHER
   .
   68F ventilator-dependent secondary to [**Last Name (un) 9456**]-[**Location (un) **] vs CIPD,
   insulin-dependent diabetes mellitus, recurrent urinary tract infections
   with chronic indwelling Foley catheter, recent C difficile infection on
   vancomycin PO admitted from [**Hospital 328**] Rehab for fever x1 week, diarrhea,
   and lethargy x1 days.
   .
   # Septic shock:  Pt was hypotensive overnight and BP responding to
   fluids and has been stable although she does have decreased UOP
   overnight. Pt refused central line for fluids but did receive 7L
   yesterday. Team overnight discussed with pt that she can die without
   central line for fluids and pressors
 pt stated understanding.
   Possible sources include her multifocal pneumonia which is concerning
   for necrotizing PNA on today
s CXR. Also, C. diff as pt c/o abdominal
   pain and was being treated for it at [**Hospital 328**] rehab. C. diff was negative
   x1. RUQ ultrasound does not demonstrate cholelithiasis.
   -          may require pressors to maintain MAP>60
   -          Monitor UOP with goal 30-40cc/hour
   -          PICC placement today for increased access as pt refusing
   central line.
   -          Continue IV vanco/meropenem for multifocal pneumonia.
   Discontinued levofloxacin as double coverage is needed early but given
   that her 3 morphologies of pseudomonas are resistant to cipro (2 of 3)
   and all are sensitive for meropenem, will continue [**Last Name (un) 614**] alone.
   -          Resend C. diff
           -    Possible bronch/mini BAL pending culture results
           -    Possible Chest CT to evaluate cavities
          -     Possible Cortisol level as pt is hypotensive
          -     F/u blood cultures
          -    Follow blood cultures drawn at [**Hospital 328**] Rehab
          -    f/u viral cultures
   .
   # Chronic respiratory failure:  Secondary to [**Last Name (un) 9456**]-[**Location (un) **]. Pt with
   respiratory acidosis and RR increased yesterday but tidal volume
   remains low.
   -Increase RR today to 24 to facilitate expiration of CO2 and check ABG
   -Insert A-line for better BP monitoring and ease of ABG draws
    -follow O2 sats
   - follow NIFs
   .
   #. Lethargy:  Multiple potential sources, as listed above. Infection
   high on list given fever, leukocytosis so will continue broad-spectrum
   antibiotics at this time. Also with rash at groin, although does not
   appear like cellulitis. ?concern for contribution from [**Last Name (un) 9456**] [**Location (un) **].
   Had recent exacerbation which required IVIG. Anemic, although at
   baseline - and would not expect patient to be symptomatic at this
   hematocrit.
   - f/u cultures and continue abx, as below
   - IVFs as above
   - Closely monitor hematocrit
   -Touch base with pt
s neurologist re: status of her GBS and if this is
   actually CIPD given time course of disease.
   .
   #. Abnormal UA:  Recurrent urinary tract infections per report.
   Abnormal UA expected given chronic indwelling Foley catheter. Small
   leukocyte esterase, negative nitrite. UTI unlikely, although she is
   covered regardless with above listed antibiotics. In the ED, received
   linezolid for VRE coverage.   Urine cx showing yeast.
   - repeat U/A
   .
   #. Anemia:  MCV 96. Required transfusion yesterday. Baseline unknown
   (no records in our system). No evidence of active bleeding at this
   time. Reportedly guaiaic negative, per rehab transfer note. Given low
   albumin, may be secondary to poor nutrition status. On folic acid at
   home. Also, possibility of blood in lung.
   - Type and screen
   - Guaiac stools
   - B12, folate nml
   .
   #. Diabetes mellitus, type II:  Tight blood glucose control
   particularly important in setting of infection.
   - Lantus, SSI per home regimen
   - resumed home dose
   .
   #. Heart failure:  Most recent TTE at [**Hospital1 403**] ([**6-5**]) was without indication
   of systolic dysfunction.
   -          f/u on previous echo, heart history; need more information
   -       Records requested from [**Hospital1 403**] [**2177-7-14**] at 1600.
   .
   #. Anxiety:  Continue home klonopin and trazodone.
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2177-7-13**] 01:30 AM 40 mL/hour
   Glycemic Control:  ISS
   Lines:
   Midline - [**2177-7-11**] 06:06 PM
   18 Gauge - [**2177-7-13**] 06:35 AM
   Arterial Line - [**2177-7-13**] 12:50 PM
   Prophylaxis:
   DVT: Heparin SC, pneumoboots
   Stress ulcer: Famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 1100**] [**Name (NI) 9458**] (nephew), ([**Telephone/Fax (1) 9459**]
   Patient ask that we stay in touch with CJ, her brother, before
   discussing with nephew
   [**Name (NI) 36**] status: FULL Code
   Disposition:ICU for now

2177-07-14 11:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Experienced hypotension yesterday AM, responded to fluids, and now
   improving.  Required iv fliud bolues.
   Refusing central line placement.
   History obtained from Medical records
   Patient unable to provide history: Mechanical ventilation
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2177-7-11**] 06:05 PM
   Azithromycin - [**2177-7-11**] 10:07 PM
   Ciprofloxacin - [**2177-7-12**] 01:42 PM
   Metronidazole - [**2177-7-12**] 02:11 PM
   Meropenem - [**2177-7-14**] 05:00 AM
   Vancomycin - [**2177-7-14**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2177-7-13**] 12:59 PM
   Morphine Sulfate - [**2177-7-13**] 12:59 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Tracheotomy
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-7-14**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 90 (73 - 102) bpm
   BP: 105/60(78) {87/43(58) - 144/75(97)} mmHg
   RR: 23 (16 - 31) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 149 kg (admission): 122.5 kg
   Height: 67 Inch
           Total In:
                                                                  8,419 mL
                                                                  1,721 mL
   PO:
           TF:
                                                                    487 mL
                                                                    532 mL
   IVF:
                                                                  7,240 mL
                                                                    906 mL
   Blood products:
                                                                    192 mL
                                                                    158 mL
   Total out:
                                                                  1,162 mL
                                                                    348 mL
   Urine:
                                                                    762 mL
                                                                    248 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  7,257 mL
                                                                  1,373 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.32/51/84.[**Numeric Identifier 1000**]/25/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, trach tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   474 K/uL
   136 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.5 mEq/L
   8 mg/dL
   107 mEq/L
   139 mEq/L
   26.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2177-7-12**]  02:07 AM
                             [**2177-7-12**]  04:52 AM
                             [**2177-7-12**]  03:03 PM
                             [**2177-7-13**]  03:40 AM
                             [**2177-7-13**]  02:38 PM
                             [**2177-7-13**]  04:47 PM
                             [**2177-7-13**]  05:07 PM
                             [**2177-7-13**]  06:10 PM
                             [**2177-7-13**]  10:25 PM
                             [**2177-7-14**]  03:29 AM
   WBC
   15.8
   10.2
   6.6
   7.5
   Hct
   23.4
   25.3
   22.7
   26.3
   Plt
   489
   520
   406
   474
   Cr
   0.3
   0.3
   0.3
   0.3
   TCO2
   36
   33
   29
   30
   30
   27
   Glucose
   173
   148
   138
   136
   Other labs: PT / PTT / INR:14.4/26.5/1.2, ALT / AST:14/13, Alk Phos / T
   Bili:124/0.3, Differential-Neuts:83.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:8.0 %, Eos:4.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:183 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   68 yof h/o GBS/CIDP and chronic respiratory failure since [**Month (only) 807**], now
   with diffuse lung infiltrates and respiratory failure.
   HYPOTENSION -- attributed to sepsis in the setting of elevated WBC and
   multifocal lung opacities. No evidence for bleeding, cardiac event,
   pulmonary embolism.  Refusing central line placement, so no CVP
   monitoring.  Maintain MAP > 60 mmHg.   Consider check adrenal axis if
   continues to experience hypotension.
   SEPSIS -- septic shock.  LIkely source include lungs (either
   pneumonia-multifocal; or septic emboli-no evidence for bacteremia),
   although allso concern urinary source or C. diff --> po vanco.
   Continue current level of support.
   DIFFUSE PULMONARY INFILTRATES -- Multifocal PNA with component of ARDS
 GNRs in  sputum, concern for Pseudomonas.  Continue vancomycin,
   meropenem, levofloxacin.   No evidence for Legionella.  Current CXR
   raises concern for cavitating process (concern for Pseudomonas,
   Staph).   If  sputum does not provide likely etiology, will need lower
   airway sampling.
   RESPRIATORY FAILURE -- Acute pneumonia on background of chronic
   respriatory failure (neurological disease).  NIF= 30 yesterday.
   Worsening patchy opacities and increasing FiO2 concerning for
   developing ARDS. P/F is 215 c/w [**Doctor Last Name 11**].  Will move to low tidal volume
   strategy.
   RUQ tenderness -- CT abdomen unrevealing.  Possible  C.diff -->
   empirical PO vanco.   C.diff toxin pending.    Continued on IV
   flagyl.   No evid of ischemic bowel.  RUQ u/s.
   METABOLIC ACIDOSIS -- Sepsis and possible volume depletion.  Follow up
   on ABG.
   THIGH RASH -- likely fungal -->
   ANEMIA -- Guiac neg.  No evidence of active blood loss.  B12/folate
   nl.  Cont to follow.
   NIDDM -- ISS.
   ANXIETY --  IV ativan.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2177-7-14**] 06:43 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-7-11**] 06:06 PM
   18 Gauge - [**2177-7-13**] 06:35 AM
   Arterial Line - [**2177-7-13**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  45 minutes

2177-07-15 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Due to high PCO2 on [**7-14**] AM ABG, RR increased to 24.
   -AC 400x 24 with FiO2 40% and PEEP 5: 7.38/49/82/30, 7.36/55/86/32
   -Records obtained from [**Hospital1 403**] (pt gave verbal consent)
   -A-line fixed (not replaced).
   -noted to have cavities on CXR [**7-14**] concerning for necrotizing
   pneumonia. Consider CT chest on [**7-15**].
   -PICC placed; did not ask pt again about central line.
   -f/u Vanc trough [**7-15**]
   -NIFs: -15 (poor effort by patient)
   -[**7-15**] Call [**Hospital1 328**] to f/u any pending BCx
   -Spiked to 101.4 - BCx, UCx sent. Sputum had been sent earlier today.
   -Large rash over chest/arms (non-painful, non-tender, non itchy) - per
   NSG, worse after 10pm [**Last Name (un) **] dose- attributed to drug rash - holding IV
   Vanc at 8am as pt is not very sensitive to other abx. Did receive 4am
   [**Last Name (un) 614**] dose.
   ---
   Per [**Hospital1 403**] Records ([**2177-5-28**]):
   -hct dropped from 38 --> 29. GI consulted -felt EGD not warranted. Hct
   remained stable.
   -EMG results: severe, axonal, sensory-motor polyneuropathy
   -Echo([**2177-5-29**]): EF 66%. No LVH. Normal [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6144**]. 1+ MR. PASP is 30
   (slightly elevated).
   -MRSA negative [**2177-6-9**]
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2177-7-12**] 01:42 PM
   Metronidazole - [**2177-7-12**] 02:11 PM
   Meropenem - [**2177-7-15**] 03:55 AM
   Vancomycin - [**2177-7-15**] 05:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-7-15**] 05:55 AM
   Morphine Sulfate - [**2177-7-15**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-7-15**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.6
   HR: 88 (73 - 93) bpm
   BP: 97/48(65) {85/47(52) - 122/62(83)} mmHg
   RR: 26 (23 - 34) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 149 kg (admission): 122.5 kg
   Height: 67 Inch
             Total In:
                                                                  3,923 mL
                                                                    745 mL
   PO:
             TF:
                                                                  1,795 mL
                                                                    477 mL
   IVF:
                                                                  1,544 mL
                                                                    178 mL
   Blood products:
                                                                    158 mL
   Total out:
                                                                  1,648 mL
                                                                    840 mL
   Urine:
                                                                  1,548 mL
                                                                    540 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,275 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.36/55/86/26/3
   Ve: 10.2 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General:  Alert, appears anxious, unable to vocalize
   Lungs: Improved rhonchi b/l, Limited secondary to anterior exam and
   body habitus and sounds from mechanical ventilator
   CV: Soft heart sounds, regular rate and rhythm, normal S1/S2
   Abdomen:  Obese, umbilical hernia (reducible), active bowel sounds, PEG
   tube in place, denies pain with palpation
   Ext:  Warm, well perfused, 2+ pulses; upper extremity edema, 1+
   Labs / Radiology
   460 K/uL
   8.2 g/dL
   147 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.9 mEq/L
   6 mg/dL
   104 mEq/L
   138 mEq/L
   25.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2177-7-13**]  04:47 PM
                             [**2177-7-13**]  05:07 PM
                             [**2177-7-13**]  06:10 PM
                             [**2177-7-13**]  10:25 PM
                             [**2177-7-14**]  03:29 AM
                             [**2177-7-14**]  03:41 PM
                             [**2177-7-14**]  04:00 PM
                             [**2177-7-14**]  09:10 PM
                             [**2177-7-15**]  04:01 AM
                             [**2177-7-15**]  04:22 AM
   WBC
   6.6
   7.5
   7.4
   7.8
   Hct
   22.7
   26.3
   25.9
   25.9
   Plt
   [**Telephone/Fax (3) 9528**]60
   Cr
   0.3
   0.3
   0.3
   TCO2
   30
   30
   27
   30
   30
   32
   Glucose
   138
   136
   147
   Other labs: PT / PTT / INR:14.4/26.5/1.2, ALT / AST:14/13, Alk Phos / T
   Bili:124/0.3, Differential-Neuts:83.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:8.0 %, Eos:4.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   .
   [**7-11**], [**7-13**], [**7-15**] BCx
 pending
   [**7-11**] Ucx
 yeast
   [**7-13**] UCx - pending
[**7-11**] Urine legionella
 negative
[**7-11**] MRSA
 negative
   [**7-12**], [**7-14**] C diff
 negative
   [**7-12**]
 viral screen negative; culture pending
   [**7-14**] sputum- gram stain no microorg, cx pending
   .
   Sputum [**2177-7-11**]
RESPIRATORY CULTURE (Final [**2177-7-14**]):
      OROPHARYNGEAL FLORA ABSENT.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.  SECOND MORPHOLOGY.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.  THIRD MORPHOLOGY.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          PSEUDOMONAS AERUGINOSA
                             |          |          PSEUDOMONAS AERUGINOSA
                             |          |          |
CEFEPIME--------------     8 S        8 S        8 S
CEFTAZIDIME-----------     4 S        4 S        4 S
CIPROFLOXACIN---------     1 S      =>4 R      =>4 R
GENTAMICIN------------     8 I        4 S        4 S
MEROPENEM-------------<=0.25 S   <=0.25 S   <=0.25 S
PIPERACILLIN----------     8 S      <=4 S      <=4 S
PIPERACILLIN/TAZO-----     8 S      <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S      <=1 S
   Assessment and Plan
   68F ventilator-dependent secondary to [**Last Name (un) 9456**]-[**Location (un) **] vs CIPD,
   insulin-dependent diabetes mellitus, recurrent urinary tract infections
   with chronic indwelling Foley catheter, recent C difficile infection on
   vancomycin PO admitted from [**Hospital 328**] Rehab for fever x1 week, diarrhea,
   and lethargy x1 days.
   .
   # Septic shock:  Pt was hypotensive overnight and BP responding to
   fluids and has been stable although she does have decreased UOP
   overnight. Pt refused central line for fluids but did receive 7L
   yesterday. Team overnight discussed with pt that she can die without
   central line for fluids and pressors
 pt stated understanding.
   Possible sources include her multifocal pneumonia which is concerning
   for necrotizing PNA on today
s CXR. Also, C. diff as pt c/o abdominal
   pain and was being treated for it at [**Hospital 328**] rehab. C. diff was negative
   x1. RUQ ultrasound does not demonstrate cholelithiasis.
   -          may require pressors to maintain MAP>60
   -          Monitor UOP with goal 30-40cc/hour
   -          PICC placement today for increased access as pt refusing
   central line.
   -          Continue IV vanco/meropenem for multifocal pneumonia.
   Discontinued levofloxacin as double coverage is needed early but given
   that her 3 morphologies of pseudomonas are resistant to cipro (2 of 3)
   and all are sensitive for meropenem, will continue [**Last Name (un) 614**] alone.
   -          Resend C. diff
           -    Possible bronch/mini BAL pending culture results
           -    Possible Chest CT to evaluate cavities
          -     Possible Cortisol level as pt is hypotensive
          -     F/u blood cultures
          -    Follow blood cultures drawn at [**Hospital 328**] Rehab
          -    f/u viral cultures
   .
   # Chronic respiratory failure:  Secondary to [**Last Name (un) 9456**]-[**Location (un) **]. Pt with
   respiratory acidosis and RR increased yesterday but tidal volume
   remains low.
   -Increase RR today to 24 to facilitate expiration of CO2 and check ABG
   -Insert A-line for better BP monitoring and ease of ABG draws
    -follow O2 sats
   - follow NIFs
   .
   #. Lethargy:  Multiple potential sources, as listed above. Infection
   high on list given fever, leukocytosis so will continue broad-spectrum
   antibiotics at this time. Also with rash at groin, although does not
   appear like cellulitis. ?concern for contribution from [**Last Name (un) 9456**] [**Location (un) **].
   Had recent exacerbation which required IVIG. Anemic, although at
   baseline - and would not expect patient to be symptomatic at this
   hematocrit.
   - f/u cultures and continue abx, as below
   - IVFs as above
   - Closely monitor hematocrit
   -Touch base with pt
s neurologist re: status of her GBS and if this is
   actually CIPD given time course of disease.
   .
   #. Abnormal UA:  Recurrent urinary tract infections per report.
   Abnormal UA expected given chronic indwelling Foley catheter. Small
   leukocyte esterase, negative nitrite. UTI unlikely, although she is
   covered regardless with above listed antibiotics. In the ED, received
   linezolid for VRE coverage.   Urine cx showing yeast.
   - repeat U/A
   .
   #. Anemia:  MCV 96. Required transfusion yesterday. Baseline unknown
   (no records in our system). No evidence of active bleeding at this
   time. Reportedly guaiaic negative, per rehab transfer note. Given low
   albumin, may be secondary to poor nutrition status. On folic acid at
   home. Also, possibility of blood in lung.
   - Type and screen
   - Guaiac stools
   - B12, folate nml
   .
   #. Diabetes mellitus, type II:  Tight blood glucose control
   particularly important in setting of infection.
   - Lantus, SSI per home regimen
   - resumed home dose
   .
   #. Heart failure:  Most recent TTE at [**Hospital1 403**] ([**6-5**]) was without indication
   of systolic dysfunction.
   -          f/u on previous echo, heart history; need more information
   -       Records requested from [**Hospital1 403**] [**2177-7-14**] at 1600.
   .
   #. Anxiety:  Continue home klonopin and trazodone.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2177-7-15**] 04:23 AM 65 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2177-7-13**] 12:50 PM
   PICC Line - [**2177-7-14**] 01:41 PM
   Prophylaxis:
   DVT: Heparin SC, pneumoboots
   Stress ulcer: Famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 1100**] [**Name (NI) 9458**] (nephew), ([**Telephone/Fax (1) 9459**]
   Patient ask that we stay in touch with CJ, her brother, before
   discussing with nephew
   [**Name (NI) 36**] status: FULL Code
   Disposition:ICU for now

2177-07-15 11:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   New rash noted on upper chest and arms.
   More awake, more alert.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2177-7-12**] 01:42 PM
   Metronidazole - [**2177-7-12**] 02:11 PM
   Vancomycin - [**2177-7-15**] 05:55 AM
   Meropenem - [**2177-7-15**] 10:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-7-15**] 05:55 AM
   Morphine Sulfate - [**2177-7-15**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-7-15**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38
C (100.4
   HR: 91 (73 - 93) bpm
   BP: 95/48(65) {85/47(52) - 122/62(83)} mmHg
   RR: 26 (23 - 34) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 149 kg (admission): 122.5 kg
   Height: 67 Inch
             Total In:
                                                                  3,923 mL
                                                                  1,187 mL
   PO:
             TF:
                                                                  1,795 mL
                                                                    679 mL
   IVF:
                                                                  1,544 mL
                                                                    308 mL
   Blood products:
                                                                    158 mL
   Total out:
                                                                  1,648 mL
                                                                  1,340 mL
   Urine:
                                                                  1,548 mL
                                                                  1,040 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,275 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/55/86/26/3
   Ve: 11 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   460 K/uL
   147 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.9 mEq/L
   6 mg/dL
   104 mEq/L
   138 mEq/L
   25.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2177-7-13**]  04:47 PM
                             [**2177-7-13**]  05:07 PM
                             [**2177-7-13**]  06:10 PM
                             [**2177-7-13**]  10:25 PM
                             [**2177-7-14**]  03:29 AM
                             [**2177-7-14**]  03:41 PM
                             [**2177-7-14**]  04:00 PM
                             [**2177-7-14**]  09:10 PM
                             [**2177-7-15**]  04:01 AM
                             [**2177-7-15**]  04:22 AM
   WBC
   6.6
   7.5
   7.4
   7.8
   Hct
   22.7
   26.3
   25.9
   25.9
   Plt
   [**Telephone/Fax (3) 9528**]60
   Cr
   0.3
   0.3
   0.3
   TCO2
   30
   30
   27
   30
   30
   32
   Glucose
   138
   136
   147
   Other labs: PT / PTT / INR:14.4/26.5/1.2, ALT / AST:14/13, Alk Phos / T
   Bili:124/0.3, Differential-Neuts:83.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:8.0 %, Eos:4.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   68 yof h/o GBS/CIDP and chronic respiratory failure since [**2177-4-28**],
   now with diffuse lung infiltrates and respiratory failure.
   HYPOTENSION -- attributed to sepsis in the setting of elevated WBC and
   multifocal lung opacities. No evidence for bleeding, cardiac event,
   pulmonary embolism.  Refusing central line placement, so no CVP
   monitoring.  Maintain MAP > 60 mmHg.   Consider check adrenal axis if
   continues to experience hypotension.
   SEPSIS -- septic shock.  Likely source include lungs (either
   pneumonia-multifocal; or septic emboli-no evidence for bacteremia),
   although also concern urinary source or C. diff --> po vanco.  Continue
   current level of support.
   DIFFUSE PULMONARY INFILTRATES -- Multifocal PNA with component of ARDS
 GNRs in  sputum, Pseudomonas isolated on sputum specimen.  Continue
   vancomycin, meropenem, levofloxacin.   No evidence for Legionella.
   Current CXR raises concern for cavitating process (concern for
   Pseudomonas, Staph) --> consider CT scan to further define.   If
   sputum does not provide likely etiology, will need lower airway
   sampling.
   RESPRIATORY FAILURE -- Acute pneumonia on background of chronic
   respriatory failure (neurological disease).  NIF= 30 yesterday.
   Worsening patchy opacities and increasing FiO2 concerning for
   developing ARDS. P/F is 215 c/w [**Doctor Last Name 11**].  Will move to low tidal volume
   strategy.
   SKIN RASH -- likely drug-related.  Suspect antibiotic most likely.
   Will D/C meropenem --> tobramycin & aztreonam.
   RUQ tenderness -- CT abdomen unrevealing.  Possible  C.diff -->
   empirical PO vanco.   C.diff toxin pending.    Continued on IV
   flagyl.   No evid of ischemic bowel.  RUQ u/s.
   METABOLIC ACIDOSIS -- Sepsis and possible volume depletion.  Follow up
   on ABG.
   THIGH RASH -- likely fungal --> local care.
   ANEMIA -- Guiac neg.  No evidence of active blood loss.  B12/folate
   nl.  Cont to follow.
   NIDDM -- monitor glucose, maintain glucose <150.
   NUTRITIONAL SUPPORT
 continue TF via PEG.
   ANXIETY --  IV ativan prn.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2177-7-15**] 08:08 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-7-13**] 12:50 PM
   PICC Line - [**2177-7-14**] 01:41 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-07-16 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - switched back to AC 500x12 (home settings) with 7.42/47/83/32
   - abx changed to cefepime to treat PNA (tolerated it previously in
   rehab) in light of possible [**Last Name (un) 614**] drug rash
   - [**Hospital 328**] rehab blood cx negative to date
   - chest CT: no effusion, abscess or cavitation; just multifocal PNA
   - questionable history of abuse per NSG- may need psych consult in AM
   to get more information and also discuss possible depression
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2177-7-15**] 10:31 AM
   Cefipime - [**2177-7-16**] 06:03 AM
   Vancomycin - [**2177-7-16**] 06:03 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2177-7-15**] 12:02 PM
   Lansoprazole (Prevacid) - [**2177-7-15**] 12:08 PM
   Heparin Sodium - [**2177-7-16**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-7-16**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 92 (75 - 95) bpm
   BP: 123/58(83) {93/43(61) - 128/63(86)} mmHg
   RR: 23 (19 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150.8 kg (admission): 122.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,450 mL
                                                                    625 mL
   PO:
             TF:
                                                                  1,550 mL
                                                                    456 mL
   IVF:
                                                                    640 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    680 mL
   Urine:
                                                                  2,910 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.43/50/74/30/7
   Ve: 10.1 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General:  Alert, appears anxious, unable to vocalize
   Lungs: Improved rhonchi b/l, Limited secondary to anterior exam and
   body habitus and sounds from mechanical ventilator
   CV: Soft heart sounds, regular rate and rhythm, normal S1/S2
   Abdomen:  Obese, umbilical hernia (reducible), active bowel sounds, PEG
   tube in place, denies pain with palpation
   Skin: Diffuse, erythematous, macular rash across chest and arms
   Ext:  Warm, well perfused, 2+ pulses; upper extremity edema, 1+
   Labs / Radiology
   501 K/uL
   8.6 g/dL
   148 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.8 mEq/L
   7 mg/dL
   103 mEq/L
   139 mEq/L
   25.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2177-7-13**]  10:25 PM
                             [**2177-7-14**]  03:29 AM
                             [**2177-7-14**]  03:41 PM
                             [**2177-7-14**]  04:00 PM
                             [**2177-7-14**]  09:10 PM
                             [**2177-7-15**]  04:01 AM
                             [**2177-7-15**]  04:22 AM
                             [**2177-7-15**]  05:10 PM
                             [**2177-7-16**]  03:08 AM
                             [**2177-7-16**]  03:21 AM
   WBC
   7.5
   7.4
   7.8
   9.2
   Hct
   26.3
   25.9
   25.9
   25.8
   Plt
   474
   448
   460
   501
   Cr
   0.3
   0.3
   0.2
   TCO2
   27
   30
   30
   32
   32
   34
   Glucose
   136
   147
   148
   Other labs: PT / PTT / INR:14.4/26.5/1.2, ALT / AST:14/13, Alk Phos / T
   Bili:124/0.3, Differential-Neuts:70.8 %, Band:0.0 %, Lymph:20.2 %,
   Mono:3.3 %, Eos:4.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:183 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Respiratory culture
 pseudomonas
   CXR
 ET tube 2 cm above carina.  Pulmonary edema and bilateral pleural
   effusions unchanged.
   Assessment and Plan
 RASH
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE I
 ANXIETY
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 .H/O RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, OTHER
   68F ventilator-dependent secondary to [**Last Name (un) 9456**]-[**Location (un) **] vs CIPD,
   insulin-dependent diabetes mellitus, recurrent urinary tract infections
   with chronic indwelling Foley catheter, recent C difficile infection on
   vancomycin PO admitted from [**Hospital 328**] Rehab for fever x1 week, diarrhea,
   and lethargy x1 days.
   .
   # Septic shock:  Hypotension and UOP improved yesterday without
   pressors or fluid boluses.  Pt refused central line but PICC was placed
   yesterday.  Possible sources include her multifocal pneumonia which is
   concerning for necrotizing PNA given cavitation seen on CXR. Also, C.
   diff as pt c/o abdominal pain and was being treated for it at [**Hospital 328**]
   rehab. C. diff was negative x2 here. RUQ ultrasound does not
   demonstrate cholelithiasis.
   -   maintain MAP>60, UOP with goal 30-40cc/hour
   -          Changing abx to cefepime given possible drug rash to
   meropenem
   -          D/C IV vanc as MRSA screen negative and only pseudomonas
   seen on sputum cx
   -          Continuing po vanc until she is off other abx for 1 week
   given h/o c diff
           -    Plan for chest CT today to eval cavitatary lesions
          -     F/u blood cultures
          -    Blood cultures drawn at [**Hospital 328**] Rehab continue to be
   negative (checked today)
          -    resp viral screen negative
   .
   # Chronic respiratory failure:  Secondary to [**Last Name (un) 9456**]-[**Location (un) **]. Pt with
   respiratory acidosis and RR increased yesterday but tidal volume
   remains low.  Now has A line for ABG draws.  Do not suspect ARDS (given
   her P/F>200) and in light of continued respiratory acidosis despite
   increased RR, will plan to transition back towards her home vent
   settings (AC 500x12 Fio2 0.35, PEEP 5)
   -change back to AC with larger tidal volumes (home vent settings)
   - f/u results of chest CT for more information regarding possible
   cavitations
    -follow O2 sats
   - d/c NIFs as pt is vent dependent at baseline
   .
   #. Lethargy:  Improving and now more alert and interactive.  Multiple
   potential sources, as listed above. Infection high on list but also
   concern for contribution from [**Last Name (un) 9456**] [**Location (un) **]. Had recent exacerbation
   which required IVIG. Anemic, although at baseline - and would not
   expect patient to be symptomatic at this hematocrit.
   - f/u cultures and continue abx, as above
   - Closely monitor hematocrit
   .
   #. Anemia:  Normocytic. Baseline unknown (no records in our system). No
   evidence of active bleeding at this time. Reportedly guaiaic negative,
   per rehab transfer note. Given low albumin, may be secondary to poor
   nutrition status. On folic acid at home. Also, possibility of blood in
   lung.
   - Type and screen
   - Guaiac stools
   - B12, folate nml
   - sending iron studies
   .
   #. Diabetes mellitus, type II:  Tight blood glucose control
   particularly important in setting of infection.
   - Lantus, SSI per home regimen
   - resumed home dose
   .
   #. Anxiety:  Continue home klonopin and trazodone.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2177-7-16**] 06:01 AM 65 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2177-7-13**] 12:50 PM
   PICC Line - [**2177-7-14**] 01:41 PM
   Prophylaxis:
   DVT: Heparin SC, pneumoboots
   Stress ulcer: Famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 1100**] [**Name (NI) 9458**] (nephew), ([**Telephone/Fax (1) 9459**]
   Patient ask that we stay in touch with CJ, her brother, before
   discussing with nephew
   [**Name (NI) 36**] status: FULL Code
   Disposition:ICU for now

2177-07-16 10:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically venitilated via trach.  ventilator settings near
   baseline.
   More awake, more interactive.
   No further episodes of hypotension.
   Skin rash not progressing.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2177-7-15**] 10:31 AM
   Cefipime - [**2177-7-16**] 06:03 AM
   Vancomycin - [**2177-7-16**] 06:03 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2177-7-15**] 12:02 PM
   Lansoprazole (Prevacid) - [**2177-7-15**] 12:08 PM
   Heparin Sodium - [**2177-7-16**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Trach
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-7-16**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 81 (75 - 95) bpm
   BP: 95/55(69) {93/43(61) - 128/63(86)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150.8 kg (admission): 122.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,450 mL
                                                                    931 mL
   PO:
             TF:
                                                                  1,550 mL
                                                                    632 mL
   IVF:
                                                                    640 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                  1,270 mL
   Urine:
                                                                  2,910 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.43/50/74/30/7
   Ve: 14 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   501 K/uL
   148 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.8 mEq/L
   7 mg/dL
   103 mEq/L
   139 mEq/L
   25.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2177-7-13**]  10:25 PM
                             [**2177-7-14**]  03:29 AM
                             [**2177-7-14**]  03:41 PM
                             [**2177-7-14**]  04:00 PM
                             [**2177-7-14**]  09:10 PM
                             [**2177-7-15**]  04:01 AM
                             [**2177-7-15**]  04:22 AM
                             [**2177-7-15**]  05:10 PM
                             [**2177-7-16**]  03:08 AM
                             [**2177-7-16**]  03:21 AM
   WBC
   7.5
   7.4
   7.8
   9.2
   Hct
   26.3
   25.9
   25.9
   25.8
   Plt
   474
   448
   460
   501
   Cr
   0.3
   0.3
   0.2
   TCO2
   27
   30
   30
   32
   32
   34
   Glucose
   136
   147
   148
   Other labs: PT / PTT / INR:14.4/26.5/1.2, ALT / AST:14/13, Alk Phos / T
   Bili:124/0.3, Differential-Neuts:70.8 %, Band:0.0 %, Lymph:20.2 %,
   Mono:3.3 %, Eos:4.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:183 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   68 yof h/o GBS/CIDP and chronic respiratory failure since [**2177-4-28**],
   now with multifocal pneumonia and respiratory failure.
   RESPRIATORY FAILURE -- Acute pneumonia and ARDS on background of
   chronic respriatory failure (neurological disease).  No complications
   by chest CT.  Clinical improvement.  Continue mechanical ventilation.
   DIFFUSE PULMONARY INFILTRATES -- Multifocal PNA with component of ARDS
 GNRs in  sputum, Pseudomonas isolated on sputum specimen.  Continue
   vancomycin, meropenem, levofloxacin.
   HYPOTENSION -- attributed to sepsis, now resolved.   Monitor BP,
   maintain MAP >60 mmHg.
   SEPSIS -- resolved.
   SKIN RASH -- likely drug-related.  Suspect antibiotic most likely, but
   unclear.  [**Name2 (NI) 133**] D/C meropenem --> tobramycin & aztreonam
  Now on
   Cefopime.
   RUQ tenderness
 Resolved. CT abdomen unrevealing.  Possible  C.diff
   --> empirical PO vanco.
   METABOLIC ACIDOSIS -- Sepsis and possible volume depletion.  Follow up
   on ABG.
   THIGH RASH -- likely fungal --> local care.
   ANEMIA -- Guiac neg.  No evidence of active blood loss.  B12/folate
   nl.  Cont to follow.
   NIDDM -- monitor glucose, maintain glucose <150.
   NUTRITIONAL SUPPORT
 continue TF at goal via PEG.
   ANXIETY --  IV ativan prn.
   DISPOSITION -- initiate plans for return to [**Hospital3 679**] for
   continued care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-7-13**] 12:50 PM
   PICC Line - [**2177-7-14**] 01:41 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-07-17 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2177-7-16**] 01:30 PM
 ARTERIAL LINE - STOP [**2177-7-16**] 03:00 PM
   - to be transferred back to [**Hospital 328**] Rehab once bed is available
   - very anxious, started on ativan prn
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2177-7-15**] 10:31 AM
   Vancomycin - [**2177-7-16**] 06:00 PM
   Cefipime - [**2177-7-17**] 05:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2177-7-16**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-7-17**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-7-17**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 86 (75 - 97) bpm
   BP: 90/44(55) {90/33(50) - 116/60(71)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 150.8 kg (admission): 122.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,916 mL
                                                                    808 mL
   PO:
             TF:
                                                                  1,827 mL
                                                                    466 mL
   IVF:
                                                                    484 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    880 mL
   Urine:
                                                                  1,915 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 234 (234 - 234) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 93%
   ABG: ///31/
   Ve: 10.6 L/min
   Physical Examination
   General:  Alert, appears anxious, unable to vocalize
   Lungs: Improved rhonchi b/l, Limited secondary to anterior exam and
   body habitus and sounds from mechanical ventilator
   CV: Soft heart sounds, regular rate and rhythm, normal S1/S2
   Abdomen:  Obese, umbilical hernia (reducible), active bowel sounds, PEG
   tube in place, denies pain with palpation
   Skin: Diffuse, erythematous, macular rash across chest and arms, rash
   improving on chest
   Ext:  Warm, well perfused, 2+ pulses; upper extremity edema, 1+
   Labs / Radiology
   502 K/uL
   8.9 g/dL
   138 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.6 mEq/L
   7 mg/dL
   101 mEq/L
   139 mEq/L
   28.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2177-7-14**]  03:29 AM
                             [**2177-7-14**]  03:41 PM
                             [**2177-7-14**]  04:00 PM
                             [**2177-7-14**]  09:10 PM
                             [**2177-7-15**]  04:01 AM
                             [**2177-7-15**]  04:22 AM
                             [**2177-7-15**]  05:10 PM
                             [**2177-7-16**]  03:08 AM
                             [**2177-7-16**]  03:21 AM
                             [**2177-7-17**]  04:19 AM
   WBC
   7.5
   7.4
   7.8
   9.2
   10.2
   Hct
   26.3
   25.9
   25.9
   25.8
   28.0
   Plt
   474
   448
   460
   501
   502
   Cr
   0.3
   0.3
   0.2
   0.3
   TCO2
   30
   30
   32
   32
   34
   Glucose
   136
   147
   148
   138
   Other labs: PT / PTT / INR:14.4/26.5/1.2, ALT / AST:14/13, Alk Phos / T
   Bili:124/0.3, Differential-Neuts:70.8 %, Band:0.0 %, Lymph:20.2 %,
   Mono:3.3 %, Eos:4.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   .
   Iron 40, TIBC 146, Ferritin 699, Transferrin 112
   [**7-15**] blood cx pending
   Urine cx: yeast
   [**7-14**] sputum gram stain: no microorg seen; cx pending
   Assessment and Plan
   68F ventilator-dependent secondary to [**Last Name (un) 9456**]-[**Location (un) **] vs CIPD,
   insulin-dependent diabetes mellitus, recurrent urinary tract infections
   with chronic indwelling Foley catheter, recent C difficile infection on
   vancomycin PO admitted from [**Hospital 328**] Rehab for fever x1 week, diarrhea,
   and lethargy x1 days.
   .
   # Septic shock:  BP has been stable, not requiring IVF boluses.  CT
   showed multifocal pneumonia, no effusions, no abscesses, no
   cavitations.   Sputum grew pseudomonas.  Also, C. diff as pt c/o
   abdominal pain and was being treated for it at [**Hospital 328**] rehab. C. diff
   was negative x2 here. RUQ ultrasound does not demonstrate
   cholelithiasis.
   - maintain MAP>60, UOP with goal 30-40cc/hour
   - continue cefepime (today is day 3) given possible drug rash to
   meropenem (received 5 days of [**Last Name (un) 614**] tx)
   - continue PO vanc until she is off other abx for 1 week given h/o c
   diff
          - F/U blood cultures, blood cultures drawn at [**Hospital 328**] Rehab
   continue to be negative (checked today)
   .
   # Chronic respiratory failure:  Secondary to [**Last Name (un) 9456**]-[**Location (un) **].  Acute
   insult due to multifocal neumonia.  Transitioned back to her home vent
   settings (AC 500x12 Fio2 0.35, PEEP 5) but keeping her on FiO2 of 0.4
   to help with the pneumonia.
   - monitor O2 sats
   - continue antibiotics
   .
   #. Lethargy:  Improving and now more alert and interactive.  Multiple
   potential sources, as listed above. Infection high on list but also
   concern for contribution from [**Last Name (un) 9456**] [**Location (un) **]. Had recent exacerbation
   which required IVIG.
   - f/u cultures and continue abx, as above
   - Closely monitor hematocrit
   .
   #. Anemia:  Normocytic. Baseline unknown (no records in our system). No
   evidence of active bleeding at this time. Reportedly guaiaic negative,
   per rehab transfer note. Given low albumin, may be secondary to poor
   nutrition status. On folic acid at home.
   - Type and screen
   - Guaiac stools
   - B12, folate nml
   - normal iron level but decreased TIBC, elevated ferritin
   .
   #. Diabetes mellitus, type II:  Tight blood glucose control
   particularly important in setting of infection.
   - Lantus, SSI per home regimen
   - resumed home dose
   .
   #. Anxiety:  Continue home klonopin and trazodone.
   .
   # Depression: questionable report of abuse at nursing home.
   - social work saw pt yesterday with help of interpreter for the deaf to
   aid in lip [**Location (un) **]
   - pt denied abuse or mistreatment at her nursing home
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2177-7-17**] 04:01 AM 65 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2177-7-14**] 01:41 PM
   Prophylaxis:
   DVT: Heparin SC, pneumoboots
   Stress ulcer: Famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 1100**] [**Name (NI) 9458**] (nephew), ([**Telephone/Fax (1) 9459**]
   Patient ask that we stay in touch with CJ, her brother, before
   discussing with nephew
   [**Name (NI) 36**] status: FULL Code
   Disposition: likely d/c back to [**Hospital 328**] Rehab MACU

2177-07-17 09:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Awake, alert.
   No hemodynamic compromise overnight.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Codeine
   swelling;
   Tetanus
   Unknown;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2177-7-15**] 10:31 AM
   Vancomycin - [**2177-7-16**] 06:00 PM
   Cefipime - [**2177-7-17**] 05:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2177-7-16**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-7-17**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-7-17**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 87 (75 - 97) bpm
   BP: 100/48(60) {90/33(50) - 116/60(71)} mmHg
   RR: 21 (19 - 26) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 151 kg (admission): 122.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,916 mL
                                                                  1,042 mL
   PO:
             TF:
                                                                  1,827 mL
                                                                    591 mL
   IVF:
                                                                    484 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                  1,080 mL
   Urine:
                                                                  1,915 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 234 (234 - 234) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG site intact
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   502 K/uL
   138 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.6 mEq/L
   7 mg/dL
   101 mEq/L
   139 mEq/L
   28.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2177-7-14**]  03:29 AM
                             [**2177-7-14**]  03:41 PM
                             [**2177-7-14**]  04:00 PM
                             [**2177-7-14**]  09:10 PM
                             [**2177-7-15**]  04:01 AM
                             [**2177-7-15**]  04:22 AM
                             [**2177-7-15**]  05:10 PM
                             [**2177-7-16**]  03:08 AM
                             [**2177-7-16**]  03:21 AM
                             [**2177-7-17**]  04:19 AM
   WBC
   7.5
   7.4
   7.8
   9.2
   10.2
   Hct
   26.3
   25.9
   25.9
   25.8
   28.0
   Plt
   474
   448
   460
   501
   502
   Cr
   0.3
   0.3
   0.2
   0.3
   TCO2
   30
   30
   32
   32
   34
   Glucose
   136
   147
   148
   138
   Other labs: PT / PTT / INR:14.4/26.5/1.2, ALT / AST:14/13, Alk Phos / T
   Bili:124/0.3, Differential-Neuts:70.8 %, Band:0.0 %, Lymph:20.2 %,
   Mono:3.3 %, Eos:4.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   68 yof h/o GBS/CIDP and chronic respiratory failure since [**2177-4-28**],
   now with multifocal pneumonia and respiratory failure.
   RESPRIATORY FAILURE -- Acute pneumonia and ARDS on background of
   chronic respriatory failure (neurological disease).  No complications
   by chest CT.  Clinical improvement.  Continue mechanical ventilation.
   DIFFUSE PULMONARY INFILTRATES -- Multifocal PNA with component of ARDS
 GNRs in  sputum, Pseudomonas isolated on sputum specimen.  Continue
   vancomycin, meropenem, levofloxacin.
   HYPOTENSION -- attributed to sepsis, now resolved.   Monitor BP,
   maintain MAP >60 mmHg.
   SEPSIS -- resolved.
   SKIN RASH -- likely drug-related.  Suspect antibiotic most likely, but
   unclear.  [**Name2 (NI) 133**] D/C meropenem --> tobramycin & aztreonam
  Now on
   Cefopime.
   RUQ tenderness
 Resolved. CT abdomen unrevealing.  Possible  C.diff
   --> empirical PO vanco.
   METABOLIC ACIDOSIS -- Sepsis and possible volume depletion.  Follow up
   on ABG.
   THIGH RASH -- likely fungal --> local care.
   ANEMIA -- Guiac neg.  No evidence of active blood loss.  B12/folate
   nl.  Cont to follow.
   NIDDM -- monitor glucose, maintain glucose <150.
   NUTRITIONAL SUPPORT
 continue TF at goal via PEG.
   ANXIETY --  IV ativan prn.
   DISPOSITION -- initiate plans for return to [**Hospital3 679**] for
   continued care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2177-7-17**] 07:42 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-7-14**] 01:41 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   Patient is critically ill